US07425568B2
a) 2-(2-Hydroxy-1-phenylethylsulfanyl)benzene-1,4-diol
To a stirred solution of 2-mercaptobenzene-1,4-diol (0.5 g) and potassium carbonate (0.49 g) in water (5 ml) was added 2-phenyloxirane (0.40 ml) under argon. The mixture was stirred at room temperature for 2.5 hours and then treated with 2 M HCl and extracted with ethyl acetate. The combined organic layers were washed with water and brine, dried and evaporated. The crude product was purified by column chromatography using heptane-ethyl acetate (1:1) as an eluant. 1H NMR (400 MHz, d6-DMSO) δ: 8.94 (br s, 1H), 8.72 (br s, 1H), 7.24-7.37 (m, 5H), 6.62-6.65 (m, 2H), 6.47 (dd, 1H, J 8.6, 2.8 Hz), 4.97 (br s, 1H), 4.34 (m, 1H), 3.72 (m, 2H).

reactant | 2-mercaptobenzene-1,4-diol | 0.5 g | SC1=C(C=CC(=C1)O)O | C6H6O2S
reactant | potassium carbonate | 0.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-phenyloxirane | 0.40 ml | C1(=CC=CC=C1)C1OC1 | C8H8O
reactant | HCl | 2 M | Cl | ClH
solvent | water | 5 ml | O | H2O
product | 2-(2-Hydroxy-1-phenylethylsulfanyl)benzene-1,4-diol | OCC(C1=CC=CC=C1)SC1=C(C=CC(=C1)O)O | C14H14O3S
